US05721234
Preparation of acetic acid 8-acetylamino-1,2,3,4-tetrahydronaphthalen-2-yl ester
A mixture of N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)-acetamide (3 g, 15 mmol), acetic anhydride (2 g, 200 mmol) in pyridine (50 mL) was stirred at room temperature for 18 h. Solvent was removed by rotoevaporation and the residue was purified by column chromatography on silica gel (1:1 ethyl acetate:hexane as eluant) to give the product (2.2 g) as a tan solid in 59% yield.

reactant | N-(7-hydroxy-5,6,7,8-tetrahydronaphthalen-1-yl)-acetamide | 15 mmol, 3 g | OC1CCC=2C=CC=C(C2C1)NC(C)=O | C12H15NO2
reactant | acetic anhydride | 200 mmol, 2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | acetic acid 8-acetylamino-1,2,3,4-tetrahydronaphthalen-2-yl ester | 2.2 g, 59% yield | C(C)(=O)NC=1C=CC=C2CCC(CC12)OC(C)=O | C14H17NO3
